US07645784B2
1-(2-Hydroxyethyl)-1H-benzimidazole-7-carbonitrile was prepared in two steps starting from 2-[(2-hydroxyethyl)amino]-3-nitrobenzonitrile (0.99 g) according to the procedure described for the synthesis of 2-(7-bromo-1H-benzimidazol-1-yl)ethanol. Yield 0.49 g (55 %). MS (ESI) m/z 188.1 [M+H]. 1H NMR (400 MHz, DMSO-D6) δ ppm: 3.81 (q, J=5.1 Hz, 2H), 4.53 (t, J=5.3 Hz, 2H), 5.03 (t, J=5.1 Hz, 1H) 7.36 (t, J=7.8 Hz, 1H), 7.76 (dd, J=7.6, 1.0 Hz, 1H), 8.04 (dd, J=8.1, 1.0 Hz, 1H), 8.37 (s, 1H).

reactant | 2-[(2-hydroxyethyl)amino]-3-nitrobenzonitrile | 0.99 g | OCCNC1=C(C#N)C=CC=C1[N+](=O)[O-] | C9H9N3O3
reactant | 2-(7-bromo-1H-benzimidazol-1-yl)ethanol | BrC1=CC=CC2=C1N(C=N2)CCO | C9H9BrN2O
product | 1-(2-Hydroxyethyl)-1H-benzimidazole-7-carbonitrile | OCCN1C=NC2=C1C(=CC=C2)C#N | C10H9N3O
